US06066657
7-Methoxy-2-methylsulfanylbenzofuran
n-Butyllithium (1.6M in hexanes, 10.2 ml) was added dropwise to a cooled (-78° C.) solution of 7-methoxybenzofuran (2.0 g) in tetrahydrofuran (40 ml) under an inert atmosphere. Methyl disulfide (1.46 ml) was added and the reaction mixture was stirred at -78° C. for 30 minutes, then at room temperature for 1 h. Water was added and the tetrahydrofuran was removed in vacuo. The aqueous residue was extracted with ether (3×100 ml) and the combined organic phases were washed with water (100 ml) and dried over sodium sulfate. The solvent was removed in vacuo to afford the title compound as a yellow oil (2.73 g).

reactant | n-Butyllithium | 1.6M, 10.2 ml | C(CCC)[Li]
reactant | 7-methoxybenzofuran | 2.0 g | COC1=CC=CC=2C=COC21 | C9H8O2
reactant | Methyl disulfide | 1.46 ml | CSSC | C2H6S2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-2-methylsulfanylbenzofuran | 2.73 g | COC1=CC=CC=2C=C(OC21)SC | C10H10O2S
